US06329397B1
To a mixture of 5-hydroxy-5-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.08 g) and 5 mL of methanol was added 10 drops of 12 M aqueous HCl. After stirring for 1 hour, the mixture was concentrated in vacuo, and the residue was dissolved in 1 mL of DMF. After cooling to 0° C., the mixture was treated with triethylamine (0.11 mL, 0.80 mmol) and 4-benzyloxy-benzenesulfonyl chloride (0.11 g, 0.40 mmol). After stirring for 2 h at room temperature, the mixture was diluted with ethyl acetate, washed 2× with 1M HCl, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by radial chromatography (2:1 hexane-ethyl acetate, 2 mm silica gel plate) affording 0.047 g of 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-5-methyl-piperidine-2-carboxylic acid methyl ester as a colorless solid.

reactant | 5-hydroxy-5-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.08 g | COC(=O)C1N(CC(CC1)(C)O)C(=O)OC(C)(C)C | C13H23NO5
reactant | methanol | 5 mL | CO | CH4O
reactant | triethylamine | 0.80 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxy-benzenesulfonyl chloride | 0.40 mmol, 0.11 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
catalyst | HCl | 12 M, 10 drops | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-benzyloxy-benzenesulfonyl)-5-hydroxy-5-methyl-piperidine-2-carboxylic acid methyl ester | 0.047 g | COC(=O)C1N(CC(CC1)(C)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C21H25NO6S
